US05461036
Ethyl bromodifluoroacetate (6.0 g) and dodecyl aldehyde (1.84 g) were mixed with anhydrous tetrahydrofuran (40 ml ) under argon atmosphere, and the solution was added dropwise to a suspension of zinc powder (2.2 g) and copper bromide (I) (0.22 g) in anhydrous tetrahydrofuran (40 ml ) which was heated to a refluxing temperature. The mixture, after heating under reflux for 5 hours, was cooled and concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 20:1 to 10:1) to give ethyl 2,2-difluoro-3-hydroxytetradecanoate (0.92 g). After the mixture of ethyl 2 , 2-difluoro-3-hydroxytetradecanoate (0.92 g) and 1,1'-thiocarbonyl imidazole (1.26 g) in 1,2-dichloroethane was heated under reflux for 1 hour, it was cooled and concentrated. The residue was subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 30:1 to 10:1 ) to give ethyl 2,2-difluoro-3-imidazoylthiocarbonyloxytetradecanoate (1.32 g). To a solution of ethyl 2 , 2-difluoro-3-imidazoylthiocarbonyloxytetradecanoate (1.32 g) dissolved in toluene (40 ml ) under argon atmosphere, which was heated under reflux, was added dropwise a solution of tri-n-butyltin hydride (2.93 ml ) in toluene (70 ml ). The mixture, after heating under reflux for 2 hours, was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column with eluent systems of n-hexane-ethyl acetate (from 300:1 to 50:1 ) to give ethyl 2,2-difluorotetradecanoate (0.67 g). To a solution of ethyl 2,2-difluorotetradecanoate (489 mg) in N,N-dimethylformamide (30 ml) were added 6-(4'-N-glycyl-spicaminyl-amino)purine hydrochloride (300 mg) and triethylamine (1.5 ml). The mixture was stirred for 12 hours. After the solvent was evaporated, the residue was subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol-water (from 8.5:1:0.05 to 7:1:0.05) to give SPK182 in the yield of 95 mg.

reactant | ethyl 2 , 2-difluoro-3-imidazoylthiocarbonyloxytetradecanoate | 1.32 g | FC(C(=O)OCC)(C(CCCCCCCCCCC)OC(=S)C(=O)C=1NC=CN1)F | C21H32F2N2O4S
reactant | tri-n-butyltin hydride | 2.93 ml | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2,2-difluorotetradecanoate | 0.67 g | FC(C(=O)OCC)(CCCCCCCCCCCC)F | C16H30F2O2
